US08013157B2
To a 4-mL vial, added 100 mg (0.28 mmol) (7) and 6 mg (0.0058 mmol) Pd2dba3-CHCl3. Next added 0.3 mL THF, 48 μL (0.43 mmol) iodobenzene, and finally 1.1 mL (1.1 mmol) TBAF solution (1M in THF). Let stir at room temperature for 18 hours. At the end of the reaction, added 200 μL triethylamine, let stir briefly, concentrated in vacuo, and purified the crude material directly by silica gel chromatography (automated column, 12 g SiO2, 0% to 20% EtOAc in hexanes gradient). Obtained 63 mg (90%) of 1-Benzyl-4-phenyl-1,2,3,6-tetrahydro-pyridine as a yellow oil.

reactant | THF | 0.3 mL | C1CCOC1 | C4H8O
reactant | iodobenzene | 0.43 mmol, 48 μL | IC1=CC=CC=C1 | C6H5I
reactant | TBAF | 1.1 mmol, 1M, 1.1 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
catalyst | Pd2dba3 CHCl3 | 0.0058 mmol, 6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd].C(Cl)(Cl)Cl
solvent | triethylamine | 200 μL | C(C)N(CC)CC | C6H15N
product | 1-Benzyl-4-phenyl-1,2,3,6-tetrahydro-pyridine | 63 mg, 90% | C(C1=CC=CC=C1)N1CCC(=CC1)C1=CC=CC=C1 | C18H19N
